US07812043B2
Indole starting material:
Indole-3-carboxylic acid ethyl ester, R5X=benzyl bromide, NH2A=3-(2-amino-thiazol-4-yl)-propionic acid ethyl ester

reactant | Indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=CC=CC=C12 | C11H11NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-(2-amino-thiazol-4-yl)-propionic acid ethyl ester | C(C)OC(CCC=1N=C(SC1)N)=O | C8H12N2O2S
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
